US08729105B2
Preparation of 2-(4-Chloro-phenyl)-3-fluoro-pyridine
A solution of 18.60 g 2-chloro-3-fluoropyridine, 23.25 g 4-chlorophenylboronic acid and 2.30 g 1,1′bis(diphenylphosphino)ferrocenedichloropalladium(II), 22.50 g sodium carbonate in toluol:dimethylformamide:water 190:20:40 and the mixture was stirred at 90° C. over 5 hours. The reaction mixture was diluted with ethyl acetate and water. The phases were separated and the organic phase was washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on silica gel with a gradient of heptane to heptane:ethyl acetate 1:1. The product fractions were collected and evaporated. The residue was crystallized in ether to yield 19.30 g (65.73%) of the title compound as off-white solid, MS 208.1 (M+H)+.

reactant | 2-chloro-3-fluoropyridine | 18.60 g | ClC1=NC=CC=C1F | C5H3ClFN
reactant | 4-chlorophenylboronic acid | 23.25 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 22.50 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluol dimethylformamide water | C1(=CC=CC=C1)C.CN(C=O)C.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | 1,1′bis(diphenylphosphino)ferrocenedichloropalladium(II) | 2.30 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-Chloro-phenyl)-3-fluoro-pyridine | 19.30 g, 65.73% | ClC1=CC=C(C=C1)C1=NC=CC=C1F | C11H7ClFN
